US06734206B1
Pd/C (6 mg, 10 wt %) was added to a solution of (4-{(R)-2-[(E)-4-(3-chlorophenyl)-3-oxo-but-1-enyl]-5-oxo-pyrrolidin-1-yl}-butoxy)-acetic acid methyl ester (59 mg, 0.14 mmol) in methanol (2 mL). The reaction mixture was evacuated and refilled with hydrogen (3×) then stirred at rt under a balloon of hydrogen for 3.5 h. The reaction mixture was filtered through celite, washing with methanol (5 mL). The filtrate was concentrated in vacuo to afford 59 mg (99%) of (4-{(R)-2-[4-(3-Chlorophenyl)-3-oxo-butyl]-5-oxo-pyrrolidin-1-yl}-butoxy)-acetic acid methyl ester.

reactant | (4-{(R)-2-[(E)-4-(3-chlorophenyl)-3-oxo-but-1-enyl]-5-oxo-pyrrolidin-1-yl}-butoxy)-acetic acid methyl ester | 0.14 mmol, 59 mg | COC(COCCCCN1[C@H](CCC1=O)\C=C\C(CC1=CC(=CC=C1)Cl)=O)=O | C21H26ClNO5
solvent | methanol | 2 mL | CO | CH4O
catalyst | Pd/C | 6 mg | [Pd] | Pd
product | (4-{(R)-2-[4-(3-Chlorophenyl)-3-oxo-butyl]-5-oxo-pyrrolidin-1-yl}-butoxy)-acetic acid methyl ester | 59 mg, 99% | COC(COCCCCN1[C@@H](CCC1=O)CCC(CC1=CC(=CC=C1)Cl)=O)=O | C21H28ClNO5
